US07449464B2
To a suspension of 2-fluoro-5-(3-oxo-3H-isobenzofuran-1-ylidenemethyl)benzonitrile in water (200 ml) was added aqueous sodium hydroxide (26.1 g in 50 ml water) solution and the reaction mixture was heated under nitrogen to 90° C. for 30 minutes. The reaction mixture was partially cooled to 70° C., and hydrazine hydrate (100 ml) was added and stirred for 18 hours at 70° C. The reaction was cooled to room temperature and acidified with 2M HCl to pH 4. The mixture was stirred for 10 min and filtered. The resulting solid was washed with water, hexane, ether, ethyl acetate and dried to yield 2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)benzoic acid as a pale pink powder (30.0 g, 77%). m/z [M+1]+ 299 (96% purity), δH 4.4 (2H, s), 7.2-7.3 (1H, m), 7.5-7.6 (1H, m), 7.8-8.0 (4H, m), 8.2-8.3 (1H, m), 12.6 (1H, s).

reactant | 2-fluoro-5-(3-oxo-3H-isobenzofuran-1-ylidenemethyl)benzonitrile | FC1=C(C#N)C=C(C=C1)C=C1OC(C2=CC=CC=C12)=O | C16H8FNO2
reactant | sodium hydroxide | 50 ml, 26.1 g | [OH-].[Na+]
reactant | hydrazine hydrate | 100 ml | O.NN
reactant | HCl | 2M | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)benzoic acid | 30.0 g, 77% | FC1=C(C(=O)O)C=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C16H11FN2O3
